US05599813
Methyl 3'-nitro-biphenyl-4-carboxylate
In 60 ml of toluene was dissolved 6.4 g of 4-bromophenylacetic acid. To the solution were added 1.04 g of tetrakistriphenylphosphine palladium and 30 ml of 2M sodium carbonate aqueous solution. To the mixture was added the solution of 5.0 g 3-nitrophenylboric acid in 15 ml of methanol under a stream of nitrogen, followed by stirring at 80° C. for 11 hours. The reacton mixture was diluted with chloroform and filtered by Celite. The organic layer was separated and washed with 2M sodium carbonate aqueous solution and dried over anhydrous magnesium sulfate. After removing the solvent, the residue was dissolved in methanol under heating. The mixture was treated with active carbon and cooled to precipitate crystals. The crystals were collected by filtration and dried over anhydrous magnesium sulfate to yield 3.8 g of the titled compound.

reactant | 4-bromophenylacetic acid | 6.4 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | sodium carbonate | 2M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrophenylboric acid | 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)OB(O)O | C6H6BNO5
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 15 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3'-nitro-biphenyl-4-carboxylate | 3.8 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C14H11NO4
